US06784323B2
(R)-3-(1-Allyl-1H-indol-3-yl)-butanal (Table 3, entry 3):
Prepared according to general procedure from crotonaldehyde (125 μL, 1.50 mmol), 1-allyl-1H-indole (78.5 mg, 0.500 mmol), TFA (7.7 μL, 0.10 mmol) and (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one (24.6 mg, 0.100 mmol) in CH2Cl2 (0.90 mL) and isopropanol (0.10 mL) at −72° C. for 21 h to provide, after silica gel chromatography (7:93 EtOAc/hexanes), the title compound as a colorless oil (80 mg, 70% yield, 92% ee). IR (film) 3041, 2966, 2919, 2822, 2834, 2712, 1722, 1469, 1375, 1328, 1309, 1262, 192, 1018, 995, 929, 736 cm−1; 1H NMR (300 MHz, CDCl3) δ 9.76 (dd, J=2.1, 2.1 Hz, 1H, CHO), 7.64 (dt, J=0.9, 7.8 Hz, 1H, ArH), 7.33-7.20 (m, 2H, ArH), 7.13 (ddd, J=0.9, 6.9, 7.8 Hz, 1H, ArH), 6.89 (s, 1H, NCH), 5.98 (ddd, J=5.4, 9.9, 22.5 Hz, 1H, CH2CHCH2), 5.20 (dd, J=1.5, 10.2 Hz, 1H, CH2CHCH2), 5.10 (dt, J=1.5, 17.1 Hz, 1H CH2CHCH2), 4.68 (d, J=5.4 Hz, 2H NCH2), 3.69 (dt, J=6.9, 21.3 Hz, 1H, ArCH), 2.88 (ddd, J=2.4, 6.6, 16.2 Hz, 1H, CH2CO); 2.71 (ddd, J=2.1, 7.2, 16.2 Hz, 1H, CH2CO); 1.44 (d, J=6.9 Hz, 3H, CHCH3); 13C NMR (75 MHz, CDCl3) δ 202.8, 136.7, 133.5, 126.8, 124.1, 121.8, 119.3, 119.2, 119.0, 117.4, 109.8, 51.1, 48.9, 26.1, 21.8; HRMS (CI) exact mass calcd for (C15H17NO) requires m/z 227.1310, found m/z 227.1309. [α]D=−4.4 (c=1.0, CHCl3). The enantiomeric ratio was determined by HPLC analysis of the alcohol, obtained by NaBH4 reduction of the aldehyde, using a Chiracel AD and AD guard column (2:98 ethanol/hexanes, 1 mL/min); S isomer tr=38.7 min and R isomer tr=42.2 min.

reactant | crotonaldehyde | 1.50 mmol, 125 μL | C(\C=C\C)=O | C4H6O
reactant | 1-allyl-1H-indole | 0.500 mmol, 78.5 mg | C(C=C)N1C=CC2=CC=CC=C12 | C11H11N
reactant | TFA | 0.10 mmol, 7.7 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one | 0.100 mmol, 24.6 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C(C)(C)C)C)=O | C15H22N2O
solvent | CH2Cl2 | 0.90 mL | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 0.10 mL | C(C)(C)O | C3H8O
product | (R)-3-(1-Allyl-1H-indol-3-yl)-butanal | 80 mg, 70% yield | C(C=C)N1C=C(C2=CC=CC=C12)[C@@H](CC=O)C | C15H17NO
